US07371743B2
(c) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(1,1-dioxo-6-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzamide
Prepared analogously to Example 1f from 4-(1,1-dioxo-3-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine, TBTU and NMM in DMF with subsequent purification by preparative HPLC.

reactant | 4-(1,1-dioxo-3-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzoic acid | O=S1(N(C(CCN1)C)C1=C(C=C(C(=O)O)C=C1)C)=O | C12H16N2O4S
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(1,1-dioxo-6-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2S(N(CCC2)C)(=O)=O)C)=O)C=C1 | C21H24ClN5O3S
